US09227971B2
2-((tert-butyldimethylsilyloxy)methyl)thiazole (8.0 g, 35 mmol) was dissolved in dry THF (350 mL) and the solution was cooled to −78° C. To this solution, t-BuLi (1.7 M, 25 mL, 42 mmol) was added dropwise. The reaction was warmed to −40° C. and stirred for 2 hours. Then, Bu3SnCl (14.6 g, 45 mmol) was added and the resulting mixture was allowed to warm to room temperature slowly and stirred for another 30 min. NH4Cl (aq.) was added to quench the reaction and extracted with EtOAc. The organics was dried and concentrated. The residue was purified with column (silica gel, 0˜30 EtOAc/hexane) to give the product 2-((tert-butyldimethylsilyloxy)methyl)-5-(tributylstannyl)thiazole (14.1 g)

reactant | 2-((tert-butyldimethylsilyloxy)methyl)thiazole | 35 mmol, 8.0 g | [Si](C)(C)(C(C)(C)C)OCC=1SC=CN1 | C10H19NOSSi
reactant | t-BuLi | 42 mmol, 1.7 M, 25 mL | [Li]C(C)(C)C
reactant | Bu3SnCl | 45 mmol, 14.6 g | [Sn](CCCC)(CCCC)(CCCC)Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 2-((tert-butyldimethylsilyloxy)methyl)-5-(tributylstannyl)thiazole | 14.1 g | [Si](C)(C)(C(C)(C)C)OCC=1SC(=CN1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H18NOSSi.3C4H9.Sn/c1-10(2,3)14(4,5)12-8-9-11-6-7-13-9;3*1-3-4-2;/h6H,8H2,1-5H3;3*1,3-4H2,2H3;
